US06962890B2
Into a 1 liter reactor thoroughly purged with nitrogen, 43.5 ml of an ether solution containing 130.7 mmol of ethylmagnesium bromide and 70 ml of THF were introduced. To the reactor, a solution containing 30.16 g (124.5 mmol) of 2-cumyl-4-methoxyphenol diluted with 80 ml of a THF was dropwise added at 0° C. over a period of 30 minutes. Then, 500 ml of toluene was added, and the system was heated to 100° C. to distill off about 40 ml of a mixed solution of ether and THF, whereby an opaque white slurry was obtained. After the slurry was cooled to 15° C., 9.04 g (301.3 mmol) of paraformaldehyde and 24.8 ml (178.0 mmol) of triethylamine were added, followed by stirring at 90° C. for 15 minutes. The reaction solution was allowed to cool to room temperature and then quenched with 84 ml of 18% hydrochloric acid. The organic layer was washed with 400 ml of water, 200 ml of a sodium hydrogencarbonate aqueous solution and a sodium chloride aqueous solution (200 ml×2), and then concentrated. The resulting liquid was purified by silica gel column chromatography to obtain 27.27 g (yield: 81%) of 3-cumyl-5-methoxysalicylaldehyde.

reactant | ethylmagnesium bromide | 130.7 mmol | C(C)[Mg]Br
reactant | 2-cumyl-4-methoxyphenol | 124.5 mmol, 30.16 g | C(C)(C)(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)O | C16H18O2
reactant | paraformaldehyde | 301.3 mmol, 9.04 g | C=O | CH2O
reactant | triethylamine | 178.0 mmol, 24.8 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-cumyl-5-methoxysalicylaldehyde | 27.27 g, yield: 81% | C(C)(C)(C1=CC=CC=C1)C1=C(C(C=O)=CC(=C1)OC)O | C17H18O3
